US07034017B2
I-b 4-(4-Morpholin-3-onyl)aniline
In an autoclave, 4-(4-morpholin-3-onyl)nitrobenzene (63 g, 0.275 mol) is dissolved in tetrahydrofuran (200 ml), Pd/C (3.1 g, 5%) is added and the mixture is hydrogenated at 70° C. and a hydrogen pressure of 50 bar for 8 hours. The catalyst is filtered off and the solvent is then distilled off under reduced pressure and the product is purified by crystallization from ethyl acetate. Yield: 20 g (colorless to bluish solid), 37.6% of theory. Alternatively, purification can also be carried out by chromatography (on silica gel, hexane/ethyl acetate mixture).

reactant | 4-(4-morpholin-3-onyl)nitrobenzene | 0.275 mol, 63 g | N1(C(COCC1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C10H10N2O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 3.1 g | [Pd] | Pd
product | 4-(4-Morpholin-3-onyl)aniline | N1(C(COCC1)=O)C1=CC=C(N)C=C1 | C10H12N2O2
